US04224329
dl-trans-2-benzyl-2,3,4,4a,5,9b-hexahydro-5-phenyl-1H-pyrido[4,3-b]indole Hydrochloride
To a solution of 0.140 moles of borane in 150 ml. of tetrahydrofuran stirred at 0° C. in a three-necked round bottom flask fitted with magnetic stirrer, thermometer, condenser and addition funnel, and maintained under a nitrogen atmosphere, was added a solution of 23.9 g. (0.071 mole) of 2-benzyl-5-phenyl-1,2,3,4-tetrahydropyrido[4,3-b]indole in 460 ml. of dry tetrahydrofuran. The addition was carried out at such a rate as to maintain the reaction temperature below 9° C. When the addition was completed the resulting mixture was heated to reflux and maintained at this temperature for one hour. The solvent was then evaporated in vacuo to afford a white solid mass which was suspended in 40 ml. of dry tetrahydrofuran and heated, slowly at first, with 180 ml. of a 1:1 by volume mixture of acetic acid and 5 N hydrochloric acid. The resulting suspension was heated at reflux for one hour, then cooled. Evaporation of tetrahydrofuran and part of the acetic acid resulted in precipitation of a white solid which was separated by filtration and washed with water. The solid was resuspended in tetrahydrofuran, filtered, washed with ethyl ether and air dried to afford 16.7 g. (63%) of the desired trans-isomer. M.P. 256°-260° C.

reactant | borane | 0.140 moles | B | BH3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2-benzyl-5-phenyl-1,2,3,4-tetrahydropyrido[4,3-b]indole | 0.071 mole | C(C1=CC=CC=C1)N1CC2=C(N(C=3C=CC=CC23)C2=CC=CC=C2)CC1 | C24H22N2
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | trans-2-benzyl-2,3,4,4a,5,9b-hexahydro-5-phenyl-1H-pyrido[4,3-b]indole Hydrochloride | Cl.C(C1=CC=CC=C1)N1C[C@@H]2[C@H](N(C=3C=CC=CC23)C2=CC=CC=C2)CC1 | InChI=1S/C24H24N2.ClH/c1-3-9-19(10-4-1)17-25-16-15-24-22(18-25)21-13-7-8-14-23(21)26(24)20-11-5-2-6-12-20;/h1-14,22,24H,15-18H2;1H/t22-,24+;/m0./s1
